US05496949
A four-necked flask was charged with 127.5 g (0.873 mole) of sodium pyrazinecarboxylate, 119.3 g (0.792 mole) of chloromethyl pivalate and 146 g of dimethylformamide and the internal temperature was maintained under stirring at 105°-110° C. for 8 hours. The reaction mixture was then cooled and transferred to a separatory funnel. After addition of 500 g of toluene, the mixture was washed with 3 portions, or a total of 900 g, of water. From the toluene layer which separated the toluene was first distilled off and the residue was subjected to distillation under reduced pressure to give 147 g of pivaloyloxymethyl pyrazinecarboxylate. Yield: 78% (based on chloromethyl pivalate).

reactant | sodium pyrazinecarboxylate | 0.873 mole, 127.5 g | N1=C(C=NC=C1)C(=O)[O-].[Na+]
reactant | chloromethyl pivalate | 0.792 mole, 119.3 g | C(C(C)(C)C)(=O)OCCl | C6H11ClO2
reactant | dimethylformamide | 146 g | CN(C=O)C | C3H7NO
solvent | toluene | 500 g | C1(=CC=CC=C1)C | C7H8
product | pivaloyloxymethyl pyrazinecarboxylate | 147 g, Yield: 78% | N1=C(C=NC=C1)C(=O)OCOC(C(C)(C)C)=O | C11H14N2O4
